datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])=C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C(C)=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C[S:10][H].C[O+:21]=[C:20]([O]C)[S][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O]C)[S][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C)[H]>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C)[O-:10])[H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)CC)C>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)CC)C 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C([H])[S]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C1=CC=CC=C1)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)C>>CN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CCCCCC)CC 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C([H])=C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])/C(C)=C([H])\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]C>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)[H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1([H])C(O)C(C)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C(C)C(O)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CC[NH:10][H].[H][NH+:21]=[C:20]([O][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)C([H])C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"[NH:10](C)C(CC)C(C)/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)C>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C([H])C(C)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O]C([H])C(C)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
